US04202895
To a solution of 45 g of 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone in 450 ml. of acetic acid was added dropwise at room temperature a solution of 13.2 g of chromium trioxide in 13.2 ml. of water. The mixture was stirred at room temperature overnight and then poured into 2 l of water. The resultant precipitate was collected by filtration, washed successively with diluted ammonia water and water, and dried to give 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone quantitatively.

reactant | 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone | 45 g | FC(CN1C(NC(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O)(F)F | C16H12ClF3N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 13.2 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 2 l | O | H2O
product | 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone | FC(CN1C(N=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O)(F)F | C16H10ClF3N2O
